US09376422B2
Compound 395: 3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-{[6-methyl-2-oxo-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]methyl}-5-(trifluoromethyl)benzamide
To a stirred solution of 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid (crude material, ˜0.313 mmol) and 3-(aminomethyl)-6-methyl-4-(trifluoromethyl)-1,2-dihydropyridin-2-one hydrochloride HCl salt (100 mg, 0.91 mmol) in DMSO (2.4 mL) was added PyBOP (248 mg, 1.05 mmol) and hunig base (166 ul, 2.10 mmol). The reaction mixture was stirred at rt for 16 hours. The reaction mixture was quenched with water and resulting precipitate was collected. The solid was triturated from ethylacetate/hexane. The resulting solid was purified by silica gel column chromatography (NH—SiO2 ethylacetate/MeOH=10/1+10% triethylamine). The crude compound was triturated from ethylacetate/hexane, and dried to give the titled compound as a white solid (75.0 mg, 44% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.32 (s, 1H), 7.26 (s, 1H), 6.86-6.89 (m, 1H), 6.34 (s, 1H), 4.73 (d, J=6.4 Hz, 2H), 3.08 (q, J=7.2 Hz, 2H), 2.80-2.85 (m, 2H), 2.70-2.78 (m, 1H), 2.37 (s, 3H), 2.35 (s, 3H), 2.24 (s, 3H), 1.85-1.89 (m, 2H), 1.69-1.72 (m, 4H), 0.84 (t, J=7.2 Hz, 3H); MS (ES) [M+H] 533.1, [M+Na] 555.2; HPLC 95.8% purity.

reactant | 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid | ˜0.313 mmol | C(C)N(C=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C17H23F3N2O2
reactant | 3-(aminomethyl)-6-methyl-4-(trifluoromethyl)-1,2-dihydropyridin-2-one hydrochloride HCl salt | 0.91 mmol, 100 mg | Cl.Cl.NCC=1C(NC(=CC1C(F)(F)F)C)=O
reactant | PyBOP | 1.05 mmol, 248 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | hunig base | 2.10 mmol, 166 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2.4 mL | CS(=O)C | C2H6OS
product | 3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-N-{[6-methyl-2-oxo-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]methyl}-5-(trifluoromethyl)benzamide | 75.0 mg, 44% yield | C(C)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C(F)(F)F)C)=O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C25H30F6N4O2
